US04920132
α-(3-Hydroxymethylphenoxy)acetonitrile (0.055 mol) in diethylether (150 ml) is stirred with thionyl chloride (0.060 ml) and a few drops of dimethylformamide at 40° C. for 1 hr. The solution is washed with water and brine, then evaporated to give α-(3-chloromethylphenoxy)acetonitrile as a yellow oil which is used directly in the next step.

reactant | α-(3-Hydroxymethylphenoxy)acetonitrile | 0.055 mol | OCC=1C=C(OCC#N)C=CC1 | C9H9NO2
reactant | thionyl chloride | 0.060 ml | S(=O)(Cl)Cl | Cl2OS
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | α-(3-chloromethylphenoxy)acetonitrile | ClCC=1C=C(OCC#N)C=CC1 | C9H8ClNO
